* Extracted by KLayout with SG13G2 LVS runset on : 25/03/2026 19:37

.SUBCKT Contador1bit_U
M$1 \$1 \$9 \$4 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.255p AD=0.1425p PS=2.18u
+ PD=1.13u
M$2 \$4 \$24 \$1 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.1425p AD=0.255p PS=1.13u
+ PD=2.18u
M$3 \$7 \$3 \$9 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.255p AD=0.255p PS=2.18u
+ PD=2.18u
M$4 \$9 \$8 \$20 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.255p AD=0.255p PS=2.18u
+ PD=2.18u
M$5 \$1 \$20 \$21 \$1 sg13_lv_nmos L=0.15u W=1.5u AS=0.51p AD=0.285p PS=3.68u
+ PD=1.88u
M$6 \$21 \$22 \$5 \$1 sg13_lv_nmos L=0.15u W=1.5u AS=0.285p AD=0.51p PS=1.88u
+ PD=3.68u
M$7 \$1 \$5 \$6 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.255p AD=0.255p PS=2.18u
+ PD=2.18u
M$8 \$7 \$23 \$1 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.255p AD=0.255p PS=2.18u
+ PD=2.18u
M$9 \$36 \$20 \$1 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.255p AD=0.1425p
+ PS=2.18u PD=1.13u
M$10 \$1 \$22 \$50 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.1425p AD=0.255p
+ PS=1.13u PD=2.18u
M$11 \$1 \$8 \$3 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.255p AD=0.255p PS=2.18u
+ PD=2.18u
M$12 \$1 \$4 \$20 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.255p AD=0.255p PS=2.18u
+ PD=2.18u
M$13 \$34 \$8 \$23 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.255p AD=0.255p
+ PS=2.18u PD=2.18u
M$14 \$23 \$3 \$37 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.255p AD=0.255p
+ PS=2.18u PD=2.18u
M$15 \$1 \$7 \$37 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.255p AD=0.1425p
+ PS=2.18u PD=1.13u
M$16 \$37 \$24 \$1 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.1425p AD=0.255p
+ PS=1.13u PD=2.18u
M$17 \$1 \$20 \$33 \$1 sg13_lv_nmos L=0.15u W=1.5u AS=0.51p AD=0.285p PS=3.68u
+ PD=1.88u
M$18 \$33 \$22 \$34 \$1 sg13_lv_nmos L=0.15u W=1.5u AS=0.285p AD=0.285p
+ PS=1.88u PD=1.88u
M$19 \$34 \$50 \$35 \$1 sg13_lv_nmos L=0.15u W=1.5u AS=0.285p AD=0.285p
+ PS=1.88u PD=1.88u
M$20 \$35 \$36 \$1 \$1 sg13_lv_nmos L=0.15u W=1.5u AS=0.285p AD=0.51p PS=1.88u
+ PD=3.68u
M$21 \$7 \$23 \$2 \$2 sg13_lv_pmos L=0.15u W=1.5u AS=0.51p AD=0.51p PS=3.68u
+ PD=3.68u
M$22 \$2 \$20 \$5 \$2 sg13_lv_pmos L=0.15u W=1.5u AS=0.51p AD=0.285p PS=3.68u
+ PD=1.88u
M$23 \$5 \$22 \$2 \$2 sg13_lv_pmos L=0.15u W=1.5u AS=0.285p AD=0.51p PS=1.88u
+ PD=3.68u
M$24 \$2 \$5 \$6 \$2 sg13_lv_pmos L=0.15u W=1.5u AS=0.51p AD=0.51p PS=3.68u
+ PD=3.68u
M$25 \$10 \$24 \$2 \$2 sg13_lv_pmos L=0.15u W=3u AS=0.795p AD=0.795p PS=5.56u
+ PD=5.56u
M$27 \$7 \$8 \$9 \$2 sg13_lv_pmos L=0.15u W=1.5u AS=0.51p AD=0.51p PS=3.68u
+ PD=3.68u
M$28 \$9 \$3 \$20 \$2 sg13_lv_pmos L=0.15u W=1.5u AS=0.51p AD=0.51p PS=3.68u
+ PD=3.68u
M$29 \$4 \$9 \$10 \$2 sg13_lv_pmos L=0.15u W=3u AS=0.795p AD=0.795p PS=5.56u
+ PD=5.56u
M$31 \$37 \$24 \$51 \$2 sg13_lv_pmos L=0.15u W=3u AS=0.795p AD=0.795p PS=5.56u
+ PD=5.56u
M$33 \$34 \$3 \$23 \$2 sg13_lv_pmos L=0.15u W=1.5u AS=0.51p AD=0.51p PS=3.68u
+ PD=3.68u
M$34 \$23 \$8 \$37 \$2 sg13_lv_pmos L=0.15u W=1.5u AS=0.51p AD=0.51p PS=3.68u
+ PD=3.68u
M$35 \$51 \$7 \$2 \$2 sg13_lv_pmos L=0.15u W=3u AS=0.795p AD=0.795p PS=5.56u
+ PD=5.56u
M$37 \$2 \$8 \$3 \$2 sg13_lv_pmos L=0.15u W=1.5u AS=0.51p AD=0.51p PS=3.68u
+ PD=3.68u
M$38 \$2 \$4 \$20 \$2 sg13_lv_pmos L=0.15u W=1.5u AS=0.51p AD=0.51p PS=3.68u
+ PD=3.68u
M$39 \$2 \$20 \$52 \$2 sg13_lv_pmos L=0.15u W=1.5u AS=0.51p AD=0.285p PS=3.68u
+ PD=1.88u
M$40 \$52 \$50 \$34 \$2 sg13_lv_pmos L=0.15u W=1.5u AS=0.285p AD=0.285p
+ PS=1.88u PD=1.88u
M$41 \$34 \$22 \$53 \$2 sg13_lv_pmos L=0.15u W=1.5u AS=0.285p AD=0.285p
+ PS=1.88u PD=1.88u
M$42 \$53 \$36 \$2 \$2 sg13_lv_pmos L=0.15u W=1.5u AS=0.285p AD=0.51p PS=1.88u
+ PD=3.68u
M$43 \$36 \$20 \$2 \$2 sg13_lv_pmos L=0.15u W=1.5u AS=0.51p AD=0.285p PS=3.68u
+ PD=1.88u
M$44 \$2 \$22 \$50 \$2 sg13_lv_pmos L=0.15u W=1.5u AS=0.285p AD=0.51p PS=1.88u
+ PD=3.68u
.ENDS Contador1bit_U
